US06992107B1
2-Phenylethyl 5-amino-4-oxopentanoate hydrochloride [compound 5]
From 2-phenylethanol (5.0 g; 41 mmol) and 5-amino-4-oxopentanoic acid hydrochloride (1.0 g; 6.0 mmol) at 70° C. The reaction was complete after 3 h. The yield was 1.43 g (88%).

reactant | 2-phenylethanol | 41 mmol, 5.0 g | C1(=CC=CC=C1)CCO | C8H10O
reactant | 5-amino-4-oxopentanoic acid hydrochloride | 6.0 mmol, 1.0 g | Cl.NCC(CCC(=O)O)=O
product | 2-Phenylethyl 5-amino-4-oxopentanoate hydrochloride | Cl.NCC(CCC(=O)OCCC1=CC=CC=C1)=O | InChI=1S/C13H17NO3.ClH/c14-10-12(15)6-7-13(16)17-9-8-11-4-2-1-3-5-11;/h1-5H,6-10,14H2;1H
